US08802659B2
6-bromo-2-hydroxyquinoline was treated with cis-4-tert-butylcyclohexanol under Mitsunobu conditions, affording 6-bromo-2-((trans)-4-tert-butylcyclohexyloxy)quinoline. 6-bromo-2-((trans)-4-tert-butylcyclohexyloxy)quinoline was then exposed to n-butyllithium and DMF, providing 6-formyl-2-((trans)-4-tert-butylcyclohexyloxy)quinoline. This aldehyde was then treated with 3-aminopropionic acid and sodium cyanoborohydride to afford the title compound, 3-((2-((trans)-4-tert-butylcyclohexyloxy)quinolin-6-yl)methylamino)propanoic acid.

reactant | 6-bromo-2-((trans)-4-tert-butylcyclohexyloxy)quinoline | BrC=1C=C2C=CC(=NC2=CC1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C19H24BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | CN(C)C=O | C3H7NO
product | 6-formyl-2-((trans)-4-tert-butylcyclohexyloxy)quinoline | C(=O)C=1C=C2C=CC(=NC2=CC1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C20H25NO2
